US04200588
4-(1-adamantyloxy)-2-methylaniline
23.2 g. (0.0764 mole) of 4-(1-adamantyloxy)-2-(methylthiomethyl)-aniline was stirred for 2 hours with approximately 96 g. of Raney nickel in 600 ml. of absolute ethanol. The catalyst was filtered and the solvent was evaporated. Purification by chromatography on silica gel followed by recrystallization from CH2Cl2 -Skellysolve B afforded the desired product, a tan solid, m.p. 143.4°-145.1° C. The NMR spectrum was in accord with the assigned structure.

reactant | 4-(1-adamantyloxy)-2-(methylthiomethyl)-aniline | 0.0764 mole | C12(CC3CC(CC(C1)C3)C2)OC2=CC(=C(N)C=C2)CSC | C18H25NOS
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-(1-adamantyloxy)-2-methylaniline | C12(CC3CC(CC(C1)C3)C2)OC2=CC(=C(N)C=C2)C | C17H23NO
